US06121308
1-methyl-2-[1-(4-amidinophenoxy)-1-methyl-ethyl]-5-[N-(ethoxycarbonylmethyl)-benzenesulphonylamino]-benzimidazole
Prepared analogously to Example 1e from 1-methyl-2-[1-(4-cyanophenoxy)-1-methyl-ethyl]-5-[N-(ethoxycarbonylmethyl)-benzenesulphonylamino]-benzimidazole and ethanolic hydrochloric acid, ethanol and ammonium carbonate.

reactant | 1-methyl-2-[1-(4-cyanophenoxy)-1-methyl-ethyl]-5-[N-(ethoxycarbonylmethyl)-benzenesulphonylamino]-benzimidazole | CN1C(=NC2=C1C=CC(=C2)N(CC(=O)OCC)S(=O)(=O)C2=CC=CC=C2)C(C)(C)OC2=CC=C(C=C2)C#N | C28H28N4O5S
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | ethanol | C(C)O | C2H6O
product | 1-methyl-2-[1-(4-amidinophenoxy)-1-methyl-ethyl]-5-[N-(ethoxycarbonylmethyl)-benzenesulphonylamino]-benzimidazole | CN1C(=NC2=C1C=CC(=C2)N(CC(=O)OCC)S(=O)(=O)C2=CC=CC=C2)C(C)(C)OC2=CC=C(C=C2)C(N)=N | C28H31N5O5S
